US07786132B2
(ii) 1-(2-Phenylsulfanyl-thiazol-5-yl)-ethanone
1-(2-Chloro-thiazol-5-yl)-ethanone (221 mg, 1.37 mmol) and sodium benzenethiolate (226 mg, 1.71 mmol) were added to acetone (20 mL) and stirred for 3 h. The suspension was poured into water (100 mL) containing 2 M aqueous NaOH (10 mL) and extracted with DCM (3×50 mL). The combined organic extracts were dried (Na2SO4) and concentrated to give the product. Yield=314 mg, 97%.

reactant | 1-(2-Chloro-thiazol-5-yl)-ethanone | 1.37 mmol, 221 mg | ClC=1SC(=CN1)C(C)=O | C5H4ClNOS
reactant | sodium benzenethiolate | 1.71 mmol, 226 mg | C1(=CC=CC=C1)[S-].[Na+]
reactant | acetone | 20 mL | CC(=O)C | C3H6O
reactant | NaOH | 2 M, 10 mL | [OH-].[Na+]
solvent | water | 100 mL | O | H2O
product | 1-(2-Phenylsulfanyl-thiazol-5-yl)-ethanone | C1(=CC=CC=C1)SC=1SC(=CN1)C(C)=O | C11H9NOS2
